US05028629
To a solution of lithium diisopropylamide, afforded by combining 3.4 g of diisopropylamine with 26 ml of n-butyllithium, at -40° C. in THF is added tert-butyl trimethylsilylacetate (8 g, 0.042 mmol) and the mixture stirred for 1 hour. To the reaction mixture is added 2-methylthio-6-n-hexylbenzaldehyde (7.08 g, 0.03 mmol) dropwise and stirred for 2 hours at -40° C. The reaction mixture is allowed to warm to -10° C. and cold lN HCl poured in. The mixture is extracted with diethyl ether. The extracts are washed with water and then brine, dried over MgSO4 and concentrated to afford tert-butyl 2-methylthio-6-n-hexylcinnamate which is hydrolyzed in methylene chloride with trifluoroacetic acid by refluxing overnight to afford the subtitle compound.

reactant | diisopropylamine | 3.4 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 26 ml | C(CCC)[Li]
reactant | tert-butyl trimethylsilylacetate | 0.042 mmol, 8 g | C[Si](C)(C)CC(=O)OC(C)(C)C | C9H20O2Si
reactant | 2-methylthio-6-n-hexylbenzaldehyde | 0.03 mmol, 7.08 g | CSC1=C(C=O)C(=CC=C1)CCCCCC | C14H20OS
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl 2-methylthio-6-n-hexylcinnamate | CSC1=C(C=CC(=O)OC(C)(C)C)C(=CC=C1)CCCCCC | C20H30O2S
